US07358248B2
Step 3: Preparation of 3-(4′-Dibenzofuran-4-yl-biphen-4-ylmethylsulfanyl)-2(2-fluoro-5-trifluoromethyl-benzoylamino)propionic acid
2 N Sodium hydroxide solution (0.25 mL, 0.5 mmol) was added dropwise to a stirred solution of methyl-3-(4′-dibenzofuran-4-yl-biphen-4ylmethylsulfanyl)-2(2-fluoro-5-trifluoromethylbenzoylamino)-propionate (110 mg, 0.17 mmol) in tetrahydrofuran (5 mL) and methanol (1 mL). The clear reaction mixture was stirred at room temperature until the reaction was complete (TLC control), and then diluted with water (5 mL), and acidified to pH 3 with 2 N hydrochloric acid. The reaction mixture was extracted with ethyl acetate (2×10 mL). The combined extract was washed with water, sat'd aq NaCl, dried over anhydrous MgSO4, filtered and concentrated in vacuo. Purification by flash column chromatography (5-10% methanol in methylene chloride) afforded the title compound has a white solid (98 mg).

reactant | Sodium hydroxide | 0.5 mmol, 2 N, 0.25 mL | [OH-].[Na+]
reactant | methyl-3-(4′-dibenzofuran-4-yl-biphen-4ylmethylsulfanyl)-2(2-fluoro-5-trifluoromethylbenzoylamino)-propionate | 0.17 mmol, 110 mg | COC(C(CSCC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=CC2=C1OC1=C2C=CC=C1)NC(C1=C(C=CC(=C1)C(F)(F)F)F)=O)=O | C37H27F4NO4S
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 3-(4′-Dibenzofuran-4-yl-biphen-4-ylmethylsulfanyl)-2(2-fluoro-5-trifluoromethyl-benzoylamino)propionic acid | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C3=CC=C(C2=CC=C(C=C2)CSCC(C(=O)O)NC(C2=C(C=CC(=C2)C(F)(F)F)F)=O)C=C3 | C36H25F4NO4S
